US07560176B2
A two necked round-bottom flask (250 mL) containing a stir bar fitted with a reflux condenser was evacuated and purged with nitrogen gas. Dry ether (50 mL) and bromobenzene (0.0191 mol, 3.0 g) were added to the flask followed by the slow addition of n-BuLi (0.0229 mol, 9.17 mL) via a syringe pump. The reaction mixture was stirred at room temperature for 30-40 min and then 4-methyl pyridine (0.0191 mol, 1.779 g) was slowly added. The reaction mixture was then refluxed for 2 to 3 hr. The reaction mixture was then cooled to room temperature, diluted with an aqueous brine solution and extracted with ether (3×30 mL). The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography using hexanes/EA as eluent. The desired 4-methyl-2-phenylpyridine was obtained. (1.15 g; 36% yield).

reactant | ether | 50 mL | CCOCC | C4H10O
reactant | bromobenzene | 0.0191 mol, 3.0 g | BrC1=CC=CC=C1 | C6H5Br
reactant | n-BuLi | 0.0229 mol, 9.17 mL | [Li]CCCC
reactant | 4-methyl pyridine | 0.0191 mol, 1.779 g | CC1=CC=NC=C1 | C6H7N
solvent | brine | [Cl-].[Na+].O
product | 4-methyl-2-phenylpyridine | 36% yield | CC1=CC(=NC=C1)C1=CC=CC=C1 | C12H11N
